US05051413
At 0°, 170 mg of sodium hydrogen carbonate and, within a period of 5minutes, 50 microliters of acetic anhydride are added to a solution of 100 mg of E-2-amino-5-phosphono-3-pentenoic acid in 6 ml of dioxan/water (1:1). The whole is stirred for 30 minutes at 0°, approximately 2 ml of Dowex 50 H+ are added and filtration is carried out. The filtrate is concentrated by evaporation and purified by ion exchange chromatography (Dowex 50 H+). Lyophilisation of the pure fractions yields 110 mg of E-2-acetamino-5-phosphono-3-pentenoic acid, m.p. 155°.

reactant | sodium hydrogen carbonate | 170 mg | C(O)([O-])=O.[Na+]
reactant | acetic anhydride | 50 microliters | C(C)(=O)OC(C)=O | C4H6O3
reactant | E-2-amino-5-phosphono-3-pentenoic acid | 100 mg | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
solvent | dioxan water | 6 ml | O1CCOCC1.O
product | E-2-acetamino-5-phosphono-3-pentenoic acid | 110 mg | N(C(=O)C)C(C(=O)O)\C=C\CP(=O)(O)O | C7H12NO6P
